US04985444
A mixture of 3-(3-chloro-1-ethoxycarbonyl-1,4-dihydropyridazin-4-yl)-2-phenylpyrazolo[1,5-a]pyridine (1.26 g), manganese (IV) oxide (12.6 g) and chloroform (12.6 ml) was refluxed for 10 hours. After filtration, organic layer was dried over magnesium sulfate. The solvent was removed and chromatographed on silica gel 12.6 g) with a mixture of hexane and ethyl acetate as an eluent. The fractions containing the objective compound were combined and evaporated in vacuo and recrystallized from a mixture of ethyl acetate and n-hexane to give 3-(3-chloropyridazin-4-yl)-2-phenylpyrazolo[1,5-a]pyridine (0.78 g).

reactant | 3-(3-chloro-1-ethoxycarbonyl-1,4-dihydropyridazin-4-yl)-2-phenylpyrazolo[1,5-a]pyridine | 1.26 g | ClC1=NN(C=CC1C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2)C(=O)OCC | C20H17ClN4O2
catalyst | manganese (IV) oxide | 12.6 g | [O-2].[Mn+4].[O-2]
solvent | chloroform | 12.6 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(3-chloropyridazin-4-yl)-2-phenylpyrazolo[1,5-a]pyridine | 0.78 g | ClC=1N=NC=CC1C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C17H11ClN4
